US03956260
8.90 g of H-Asn-Leu-OMe and 11.0 g of Z-Ser(tBu)-OH are dissolved in 100 ml of freshly distilled dimethylformamide. The solution is cooled to 0°C and 3.90 g of N-hydroxysuccinimide followed by 8.70 g of dicyclohexylcarbodiimide are added. After 30 minutes standing at 0°C and 18 hours at 25°C the precipitated dicyclohexylurea is filtered off and the filtrate is poured into 800 ml of ice water. The crystalline precipitate which hereupon separates out is dried in vacuo at 40°C and then recrystallised from methanol-water. The Z-Ser(tBu)-Asn-Leu-OMe which is hereupon obtained in an analytically pure form melts at melting point 202° - 205°C; [α]D20 =-18° (c = 1.05 in glacial acetic acid).

reactant | H-Asn-Leu-OMe | 8.90 g | N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OC | C11H21N3O4
reactant | Z-Ser(tBu)-OH | 11.0 g | N([C@@H](COC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C15H21NO5
reactant | N-hydroxysuccinimide | 3.90 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 8.70 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Z-Ser(tBu)-Asn-Leu-OMe | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C26H40N4O8
